US06313116B1
4-Methoxy-2-trifluoromethylbenzothiazole
Starting from 2-amino-4-methoxybenzothiazole (1.5 g) and trifluoroacetic acid (5.5 ml), without 1,2 dichlorobenzene. Purification by flash chromatography (eluent 20% ethyl acetate/hexane) yielded the title compound as a light brown oil (0.74 g). TLC Rf 0.70 (50% ethyl acetate in hexane)

reactant | 2-amino-4-methoxybenzothiazole | 1.5 g | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
reactant | trifluoroacetic acid | 5.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2 dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-Methoxy-2-trifluoromethylbenzothiazole | 0.74 g | COC1=CC=CC2=C1N=C(S2)C(F)(F)F | C9H6F3NOS
